US08975254B2
b) 4-amino-2-chloro-6-fluorobenzonitrile
A mixture of 4-bromo-3-chloro-5-fluoroaniline (2.08 g, 9.27 mmol) and copper(I)cyanide (0.83 g, 9.27 mmol) in DMF (15 ml) was heated in microwave reactor at 190° C. for 1 h. Reaction mixture was poured into 12% ammonium hydroxide (200 ml) and stirred for 30 min. Thus formed precipitate was filtered, washed with water and dried in vacuum to obtain 1.21 g (77%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 6.44 (dd, 1H), 6.60 (m, 1H), 6.86 (bs, 2H).

reactant | 4-bromo-3-chloro-5-fluoroaniline | 9.27 mmol, 2.08 g | BrC1=C(C=C(N)C=C1F)Cl | C6H4BrClFN
reactant | copper(I)cyanide | 9.27 mmol, 0.83 g | [Cu]C#N
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-amino-2-chloro-6-fluorobenzonitrile | 1.21 g, 77% | NC1=CC(=C(C#N)C(=C1)F)Cl | C7H4ClFN2
